US03962307
4-Bromo-2-isobutyl-5-isopropylbenzyl Chloride
In a flask are placed 225 parts of 2-isobutyl-5-isopropylbenzyl chloride, 300 parts of carbon tetrachloride and 2.5 parts of iron powder. Bromine (160 parts) in 100 parts of carbon tetrachloride is added dropwise during 7 hr. The solution is washed twice with hydrochloric acid then with sodium bicarbonate solution, dilute sodium bisulfite solution, and water. The solution is dried, the carbon tetrachloride removed, and the 4-bromo-2-isobutyl-5-isopropylbenzyl chloride distilled under reduced pressure.

reactant | 2-isobutyl-5-isopropylbenzyl chloride | C(C(C)C)C1=C(CCl)C=C(C=C1)C(C)C | C14H21Cl
reactant | Bromine | BrBr | Br2
catalyst | iron | [Fe] | Fe
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Bromo-2-isobutyl-5-isopropylbenzyl Chloride | BrC1=CC(=C(CCl)C=C1C(C)C)CC(C)C | C14H20BrCl
